US06703425B2
Preparation of 2-[5-(2-Aminoethyl)-1-methylbenzimidazol-2-yl]ethylamine
N-[2-(1-Methyl-5-{2-[(phenylmethoxy)carbonylamino]ethyl}benzimidazol-2-yl)ethyl](phenylmethoxy)carboxamide (3.6 mmol) and 10% palladium on carbon (1.0 g, 62 mole %) were combined and hydrogenation was carried out in a manner analogous to the procedure described in example 6 to provide the intermediate title compound, 2-[5-(2-aminoethyl)-1-methylbenzimidazol-2-yl]ethylamine, (55%) as a colorless oil.

reactant | N-[2-(1-Methyl-5-{2-[(phenylmethoxy)carbonylamino]ethyl}benzimidazol-2-yl)ethyl](phenylmethoxy)carboxamide | 3.6 mmol | CN1C(=NC2=C1C=CC(=C2)CCNC(=O)OCC2=CC=CC=C2)CCNC(=O)OCC2=CC=CC=C2 | C28H30N4O4
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | 2-[5-(2-aminoethyl)-1-methylbenzimidazol-2-yl]ethylamine | 55% | NCCC1=CC2=C(N(C(=N2)CCN)C)C=C1 | C12H18N4
